US06166234
3-Benzylthiomethyl-3-cyclopentadienyloxetane (1b)
The benzylthiolate solution was first prepared in a baked-out 250 ml Schlenk tube fitted with a septum. For this purpose, 2.00 g (16.1 mmol) of benzyl thiol were dissolved in 50 ml of THF and were deprotonated at 0° C. by injecting in 6.7 ml (16.1 mmol) of n-BuLi solution. The solution was then stirred at room temperature for at least half an hour. During this time, 4.37 g (16.89 mmol) of la were dissolved in 50 ml of THF in a further 250 ml Schlenk tube fitted with a septum and the solution was cooled to -15° C. The benzylthiolate solution was slowly added dropwise to the oxetane solution over a period of 2 hours. After the addition was complete, the mixture was stirred further for half an hour at room temperature. During this time, 5.9 g (22 mmol) of CpMgCl.star-solid. 2THF were dissolved in 50 ml of THF in a 250 ml three-neck flask fitted with reflux condenser, septum and inert gas connection and the solution was heated to 60° C. The solution of the oxetane was added dropwise to the Grignard solution over a period of 45 minutes. After the addition was complete, the reaction mixture was boiled for another 3 hours. It was worked up by addition of 100 ml of 10% strength ammonium chloride solution. After separating off the organic phase, the aqueous phase was extracted three times with 30 ml each time of diethyl ether and the combined organic phases were subsequently washed with sodium chloride solution until neutral. The solvent was taken off in an oil pump vacuum, the resulting viscous, colorless residue was dissolved in methylene chloride and absorbed on kieselguhr. Flash chromatography on a silica gel column (25*4 cm; eluant: PE/THF in a ratio of 8.7:1.3; RF =0.39) and evaporation of the product fraction in an oil pump vacuum give 3.08 g (67%) of lb as a colorless oil.

reactant | benzyl thiol | 16.1 mmol, 2.00 g | C(C1=CC=CC=C1)S | C7H8S
reactant | n-BuLi | 16.1 mmol, 6.7 ml | [Li]CCCC
reactant | oxetane | O1CCC1 | C3H6O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-Benzylthiomethyl-3-cyclopentadienyloxetane | C(C1=CC=CC=C1)SCC1(COC1)C1C=CC=C1 | C16H18OS
